US04241079
To a suspension of 1-iminopropyl-2-(3-carbomethoxythioureido)-4-propylthiobenzene (1 g.; 0.00295 mole) in acetone (30 ml.) and water (15 ml.) there is added 50.8% aqueous sodium hydroxide (0.23 g.; 0.00295 mole). The solution that forms is stirred at room temperature for one hour and to it there is added methyl iodide (0.42 g.; 0.00295 mole). The turbid solution formed is stirred at room temperature for 30 minutes and is poured into water (500 ml.). The suspension formed is stirred at room temperature for one hour and is vacuum filtered. The filter cake is dried to afford 1-iminopropyl-2-(3-carbomethoxy-S-methylisothioureido)-4-propylthiobenzene (0.85 g.; 81.5%), m.p. 85°-90° C. (dec.).

reactant | 1-iminopropyl-2-(3-carbomethoxythioureido)-4-propylthiobenzene | 0.00295 mole, 1 g | N=C(CC)C1=C(C=C(C=C1)SCCC)NC(=S)NC(=O)OC | C15H21N3O2S2
reactant | sodium hydroxide | 0.00295 mole, 0.23 g | [OH-].[Na+]
reactant | methyl iodide | 0.00295 mole, 0.42 g | CI | CH3I
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 15 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 1-iminopropyl-2-(3-carbomethoxy-S-methylisothioureido)-4-propylthiobenzene | 0.85 g, 81.5% | N=C(CC)C1=C(C=C(C=C1)SCCC)NC(SC)=NC(=O)OC | C16H23N3O2S2
